US04806535
A suspension of 7-(4-fluorophenyl)-5-oxo-5,7-dihydrofuro[3,4-b]pyridine (2.93 g, 12.79 mmol) in 64 ml of 0.2N NaOH is heated to 75° C. with stirring for 24 hours. The mixture is then filtered and the filtrate evaporated to produce crude 2-pyridyl phenyl carbinol, which is not further purified, but rather, dissolved in 70 mL of pyridine and treated with chromium (VI) oxide pyridine complex (10.0 g, 38.78 mmol). A black mixture results which is stirred at 23° C. for 24 hours, then treated with saturated aqueous NaHCO3 (50 ml) and extracted with CHCl3 (3×75 mL). Acidification of the basic aqueous layer to pH 2 with concentrated HCl generates a precipitate which is filtered and dried to produce crude 2-(4-fluorobenzoyl)pyridine-3-carboxylic acid. Treatment of the latter with diazomethane in ether, followed by silica gel chromotography of the resulting solid (using hexane-EtOAc (3:1) as the eluent) produces 3 -carbomethoxy-2-(4-fluorobenzoyl)pyridine. M.P. 95°-96.5° C.

reactant | 7-(4-fluorophenyl)-5-oxo-5,7-dihydrofuro[3,4-b]pyridine | 12.79 mmol, 2.93 g | FC1=CC=C(C=C1)C1OC(C=2C1=NC=CC2)=O | C13H8FNO2
solvent | NaOH | 0.2N, 64 ml | [OH-].[Na+]
product | 2-pyridyl phenyl carbinol | N1=C(C=CC=C1)C(O)C1=CC=CC=C1 | C12H11NO
